US07566735B2
1-[4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole
The title compound was prepared from 4-bromophenyl methyl sulfone and 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole using a similar procedure to that described for Example 7.

reactant | 4-bromophenyl methyl sulfone | CS(=O)(=O)C1=CC=C(C=C1)Br | C7H7BrO2S
reactant | 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | FC(C1=NNC=2CCCCC12)(F)F | C8H9F3N2
product | 1-[4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | CS(=O)(=O)C1=CC=C(C=C1)N1N=C(C=2CCCCC12)C(F)(F)F | C15H15F3N2O2S
